US07776857B2
In a nitrogen purged sealed tube, 1,4-dioxane (1.4 mL) was added and the tube was purged with nitrogen for 5 min and sealed. 3-Cyanophenylboronic acid (0.056 g, 0.384 mmol), 4-chloro-N-(4-(7-methoxy-1,5-naphthyridin-4-yloxy)phenyl)phthalazin-1-amine (0.150 g, 0.349 mmol), and 2.0 M sodium carbonate (0.349 mL, 0.698 mmol) were added to the tube, followed by 1,1′-bis(diphenylphosphino)ferrocene-palladium dichloride (0.013 g, 0.017 mmol). The tube was purged with nitrogen, sealed, and the mixture was heated to 100° C. for 17 h. The mixture was allowed to cool to RT and was concentrated in vacuo. The crude material was purified by silica gel chromatography using 0-100% CH2Cl2:MeOH(90:10)/CH2Cl2. The remaining impurities were removed by diluting the crude with methanol causing a light yellow solid to precipitate, which were filtered and air dried to yield 3-(4-(4-(7-methoxy-1,5-naphthyridin-4-yloxy)phenylamino)phthalazin-1-yl)benzonitrile. MS [M+H]=497.0; Calc'd 496.5 for C30H20N6O2.

reactant | 3-Cyanophenylboronic acid | 0.384 mmol, 0.056 g | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
reactant | 4-chloro-N-(4-(7-methoxy-1,5-naphthyridin-4-yloxy)phenyl)phthalazin-1-amine | 0.349 mmol, 0.150 g | ClC1=NN=C(C2=CC=CC=C12)NC1=CC=C(C=C1)OC1=CC=NC2=CC(=CN=C12)OC | C23H16ClN5O2
reactant | sodium carbonate | 0.698 mmol, 2.0 M, 0.349 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene-palladium dichloride | 0.017 mmol, 0.013 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-(4-(4-(7-methoxy-1,5-naphthyridin-4-yloxy)phenylamino)phthalazin-1-yl)benzonitrile | COC1=CN=C2C(=CC=NC2=C1)OC1=CC=C(C=C1)NC1=NN=C(C2=CC=CC=C12)C=1C=C(C#N)C=CC1 | C30H20N6O2
